Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Chloroquine / Barium Sulfate
 
Attending: ___
 
Chief Complaint:
Direct admission from clinic for atrial fibrillation - pt 
asymptomatic.
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Pt states he recently had an ablation proceedure for his thyroid 
disease on ___. He was seen in ___ clinic as a 
follow-up this AM where he was found to have an elevated and 
irregular heart rate. He was sent to his PCP's office where he 
was found to be in a-fib on exam and on EKG. Pt's cardiologist 
was contacted who recommended coming to the hospital for beter 
rate control.
.
Patient denies CP, SOB, palpitations, lightheadedness. Says he 
is not sure why he is here and that he feels normal. Mentions 
the following positives on ROS:
+ cough: worsening over past 2 weeks. wife reports they were 
both sick in ___, it seemed to improve, and it has intervally 
worsened since traveling to S. ___ in ___. Cough is 
non-productive.
+ night sweats: wife reports pt has been suffering from night 
sweats for last 6 months or perhaps longer
+ wt loss: very minor - 5lbs over last six months
+ fatigue: worse over last few months. family wonders if related 
to worsening dementia
+ increased forgetfullness over last year
.
Other review of systems negative: he denies any prior history of 
stroke, TIA, deep venous thrombosis, pulmonary embolism, 
bleeding at the time of surgery, myalgias, hemoptysis, black 
stools or red stools. He denies recent fevers. He denies 
exertional buttock or calf pain. All of the other review of 
systems were negative.
*** Cardiac review of systems is notable for absence of chest 
pain, paroxysmal nocturnal dyspnea, orthopnea, ankle edema, 
palpitations, syncope or presyncope. 
 
Past Medical History:
-Hyperthyroidism now s/p radioactive ablation
-Hyperlipidemia
-CAD
-Likely Mild Alzheimers
-Urinary Frequency and urethral strictures
-Hx of + PPD in ___
-Distant Polio as kid 
 
Social History:
___
Family History:
Mom: ___
Dad: ___ heart issues (died in ___ 
 
Physical Exam:
VS - 98.8 / 141/84 / 101 / 18 / 99% RA
Gen: elderly white male who looks good for age. Oriented x3. 
Mood, affect appropriate.
HEENT: Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no 
pallor or cyanosis of the oral mucosa. ___ Mucous mem.
Neck: Supple with No JVD
CV: IRIR, normal S1, S2. No m/r/g. No thrills, lifts. No S3 or 
S4.
Chest: CTAB, no crackles, wheezes or rhonchi.
Abd: Soft, NTND. No HSM or tenderness. Normoactive BS
Ext: No c/c/e. No rashes.
Skin: No stasis dermatitis, ulcers, scars, or xanthomas. 
 
Pertinent Results:
Admission Labs:
CBC: WBC-9.5 RBC-4.19* Hgb-13.2* Hct-38.8* MCV-93 MCH-31.5 
MCHC-34.0 RDW-13.9 Plt ___
Coags: ___ PTT-22.9 ___
Chem: Glucose-140* UreaN-28* Creat-1.1 Na-138 K-4.2 Cl-102 
HCO3-29 AnGap-11
ALT-19 AST-18 CK(CPK)-36* Calcium-9.3 Phos-4.5 Mg-2.1
Cardiac Markers:
CK-MB-2 cTropnT-LESS THAN 
CK-MB-2 cTropnT-LESS THAN 
CK-MB-2 cTropnT-<0.01
Thyroid Markers:
TSH-<0.02*
T3-132 Free T4-3.1*
.
Other Studies:
CXR ___: Clear lungs with no signs of infection. 
Chronic, non-progressingndeviation of the mid trachea, possibly 
due to thyroid mass.
.
Discharge Labs:
CBC: WBC-8.8 RBC-4.19* Hgb-13.2* Hct-38.6* MCV-92 MCH-31.4 
MCHC-34.1 RDW-14.0 Plt ___
Coags: ___ PTT-95.1* ___
Chem: Glucose-133* UreaN-25* Creat-0.9 Na-139 K-4.5 Cl-102 
HCO3-29 AnGap-13
 
Brief Hospital Course:
ID: Patient is a ___ yr/o M with Hx of Hyperthyroidism (s/p 
recent radioactive ablation), CAD, HLD, mild dementia who 
presents directly from clinic in Afib with mild RVR.
.
#. Atrial fibrillation:
Likely new onset although since pt has no symptoms hard to know 
when this rhythm started. Pt asymptomatic. VSS. Inciting causes 
was believed to be ___ to hyperthyroidism in pt with recent 
ablation and most recent T4 elevated from previous. Since pt had 
CHADS score of 1, it makes benefit of anticoagulation on 
warfarin questionable. Since unsure how long pt in Afib, would 
need TEE or 4 weeks anticoagulation before any cardioconversion 
attempted. It was also decided that there would be no point to 
cardioversion until thyroid issues addressed. Metoprolol was 
increased to 25mg tatrate BID while in hospital. This succeeded 
in controlling pt rate overnight and the next morning so he was 
discharged with metoprolol succinate 50mg (increased from 
previous dose of 25mg) for rate control.
.
#. Hyperthyroidism: 
Free T4 elevated at 3.1 today. T3 WNL. TSH depressed. Pt 
received radio ablation on ___ (20 mCi of I-131). Dr. 
___ that pt methimazole dose be increased to 
20mg total per day, so prescription was changed to give 10mg BID 
and pt was discharged on this dose to follow-up with Dr. ___ 
in ___ weeks.
.
 
Medications on Admission:
-Atorvastatin 40mg PO Qhs
-Donepezil 10mg PO Qam (pt reports he has not taken recently)
-Memantine 10mg PO BID (pt reports he has not taken recently)
-Methimazole 5mg PO Qd
-Metoprolol XL 25mg PO Qd
-Omeprazole 20mg PO Qd
-Tolterodine SR 4mg PO Qd
-Zolpidem 5mg PO Qhs PRN: sleep
-ASA 81mg PO Qd
-Cholecalciferol (Vitamin D3) 1,000 units daily
-Glucosamine-Chondroitin 750 mg-600 mg Tablet 2 Tabs Qd
-Prasterone 50mg PO Qd
 
Discharge Medications:
1. Metoprolol Succinate 50 mg Tablet Sustained Release 24 hr 
Sig: One (1) Tablet Sustained Release 24 hr PO once a day.
Disp:*30 Tablet Sustained Release 24 hr(s)* Refills:*1*
2. Atorvastatin 40 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime).  
3. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
4. Tolterodine 4 mg Capsule, Sust. Release 24 hr Sig: One (1) 
Capsule, Sust. Release 24 hr PO once a day.  
5. Zolpidem 5 mg Tablet Sig: One (1) Tablet PO HS (at bedtime) 
as needed for sleep.  
6. Vitamin D 1,000 unit Tablet Sig: One (1) Tablet PO once a 
day.  
7. Methimazole 10 mg Tablet Sig: One (1) Tablet PO twice a day.
Disp:*60 Tablet(s)* Refills:*0*
8. Aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*0*
9. Memantine 10 mg Tablet Sig: One (1) Tablet PO twice a day.  
10. Donepezil 10 mg Tablet Sig: One (1) Tablet PO QAM: take with 
food.  
11. Ativan 0.5 mg Tablet Sig: ___ Tablets PO at bedtime as 
needed for sleep.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
1) Atrial Fibrillation 
2) Hyperthyroidism

Secondary Diagnosis:
1) Mild dementia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the hospital from clinic with an irregular 
and rapid heart rate. You were found to be in atrial 
fibrillation and your metoprolol was increased. Your thyroid 
levels were also elevated so your methimazole was increased per 
your endocrinologists recommendations. Finally, your aspirin 
dose was increased to help protect against clotting. When your 
heart rate was controlled with metoprolol, you were discharged 
home.
.
Medication changes:
-Aspirin changed from 81mg by mouth once each day to 325mg by 
mouth once each day
-Methimazole increased from 5mg by mouth once each day to 10mg 
by mouth twice each day
-Metoprolol XL increased from 25mg by mouth once each day to 
50mg by mouth once each day.
.
You will have the following follow-up appointments:
Endocrinologist Dr. ___ in 1 week. Her office will call you 
with appointment time, but if you do not hear from them please 
call her office.
.
We have contacted your PCP and cardiologist regarding what 
happened this admission. They may contact you regarding 
follow-up appointments if they believe such an appointment is 
needed.
 
Followup Instructions:
___